US05688803
A mixture of 5 g (0.027 mol) of 2-amino-4-nitrobenzoic acid and 16.5 g (0.27 mol) of urea was heated to 160° C. for 2 hrs. and at 180° C. for a further 2 hrs. The resulting brown mass was triturated with 200 ml of methanol, filtered off and dried in a vacuum. 4.8 g (80%) of 7-nitro-1,2,3,4-tetrahydro-quinazoline-2,4-dione were obtained as a white solid;

reactant | 2-amino-4-nitrobenzoic acid | 0.027 mol, 5 g | NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H6N2O4
reactant | urea | 0.27 mol, 16.5 g | NC(=O)N | CH4N2O
product | 7-nitro-1,2,3,4-tetrahydro-quinazoline-2,4-dione | 4.8 g, 80% | [N+](=O)([O-])C1=CC=C2C(NC(NC2=C1)=O)=O | C8H5N3O4
